US06753297B2
14.57 g (0.1486 mole) of Maleic anhydride was dissolved in 11.0 mL of ethyl acetate, and then 34.81 g (0.297 mole) of indole was added with magnetic stirring. The deep orange-red solution was stirred until all the indole went into the solution. Yellow-orange crystals formed after standing at 4° C. for 2 days. Filtration and washing with ethanol (10 mL) gave 28.48 g (yield 58%) of yellow-orange crystals of maleyl diindole. The 28.48 g (0.0857 mole) of maleyl diindole was refluxed for 3 hours with 30% aqueous potassium hydroxide solution (150 mL). The reaction mixture was cooled and extracted with ether, and the ether was evaporated, yielding crude indole (10.050 g, 0.08858 mole). The alkaline solution was acidified to pH 4.4 with conc. sulfuric acid. After removal of water under reduced pressure, the residue was subject to soxlet extraction with 250 mL of methyl-tert-butyl ether for 36 hours, which gave racemic indole-3-succinic acid, 11.96 g (yield 60%). Recrystallization from ethanol-water yielded pale pinkish white platelets, m.p.: 196-198° C. (with gas evolution). (lit., m.p.: 197-198° C.).

reactant | maleyl diindole | 0.0857 mole, 28.48 g | C(\C=C/C(=O)C=1NC2=CC=CC=C2C1)(=O)C=1NC2=CC=CC=C2C1 | C20H14N2O2
solvent | potassium hydroxide | 150 mL | [OH-].[K+]
product | indole | 0.08858 mole, 10.050 g | N1C=CC2=CC=CC=C12 | C8H7N
